US08735406B2
Process of 2-phenyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one
To a mixture of 2-phenyl-7,9-dihydro-8H-purine-8-one <prepared according to the similar method to those of Reference Example 19> (4.0 g), 1,4-diazabicyclo[2.2.2]octane (2.2 g) and N,N-dimethylformamide (50 ml) was added dropwise 1-pyrrolidinecarbonyl chloride (2.6 g) at room temperature and the mixture was stirred for 10 hours. To the reaction mixture was added water (100 ml), and the crystals precipitated were collected by filtration and was dried to give the title compound 4.8 g.

reactant | 2-phenyl-7,9-dihydro-8H-purine-8-one | C1(=CC=CC=C1)C1=NC=C2NC(NC2=N1)=O | C11H8N4O
reactant | 1,4-diazabicyclo[2.2.2]octane | 2.2 g | N12CCN(CC1)CC2 | C6H12N2
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 1-pyrrolidinecarbonyl chloride | 2.6 g | N1(CCCC1)C(=O)Cl | C5H8ClNO
solvent | water | 100 ml | O | H2O
product | 2-phenyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one | 4.8 g | C1(=CC=CC=C1)C1=NC=C2N(C(NC2=N1)=O)C(=O)N1CCCC1 | C16H15N5O2
